US05807860
A solution of N-pentyl-(5-imidazolyl-2,3-methylenedioxyphenyl) acetamide (2.13 g, 6.75 mmol) and acetic acid (3.5 ml, 61.1 mmol) in tetrahydrofuran (80 ml) was added dropwise to a mixture of sodium borohydride (2.34 g, 61.9 mmol) and tetrahydrofuran (25 ml) over 20 minutes under reflux, and then stirring was continued for 2 hours under reflux. The mixture was added dropwise with water (150 ml) and concentrated hydrochloric acid (25 ml) under ice cooling and then stirring was continued at 60° C. for 2 hours. The reaction mixture was separated by adding ethyl acetate (100 ml) and water (150 ml), and the aqueous layer was made alkaline with sodium hydroxide and then extracted with toluene. The organic layer was washed with water and dried over anhydrous sodium sulfate, and then the solvent was evaporated to give N-pentyl-2-(5-imidazolyl-2,3-methylenedioxyphenyl)ethylamine (1.52 g) as an oil.

reactant | N-pentyl-(5-imidazolyl-2,3-methylenedioxyphenyl) acetamide | 6.75 mmol, 2.13 g | C(CCCC)NC(CC1=C2C(=CC(=C1)C=1NC=CN1)OCO2)=O | C17H21N3O3
reactant | acetic acid | 61.1 mmol, 3.5 ml | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 61.9 mmol, 2.34 g | [BH4-].[Na+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | N-pentyl-2-(5-imidazolyl-2,3-methylenedioxyphenyl)ethylamine | 1.52 g | C(CCCC)NCCC1=C2C(=CC(=C1)C=1NC=CN1)OCO2 | C17H23N3O2
